US08470816B2
To a solution of (2E)-3-(3,4-dichlorophenyl)prop-2-enoic acid (5.0 g) and DMF (178 μL) in THF (115 mL) was added oxalyl chloride (3.98 mL) at room temperature, and the mixture was stirred for 45 min. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in THF (13.8 mL). The THF solution was added dropwise to a solution of (4R)-4-benzyl-1,3-oxazolidin-2-one (4.48 g), triethylamine (15.9 mL) and LiCl (4.87 g) in THF (115 mL) at 0° C., and the mixture was stirred overnight at room temperature. The reaction mixture was poured into water, and the resultant product was extracted with ethyl acetate. The organic layer was washed with water and brine and dried, and the solvent was evaporated under reduced pressure to give (4R)-4-benzyl-3-[(2E)-3-(3,4-dichlorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one (4.22 g, 49%) as a white powder.

reactant | (2E)-3-(3,4-dichlorophenyl)prop-2-enoic acid | 5.0 g | ClC=1C=C(C=CC1Cl)/C=C/C(=O)O | C9H6Cl2O2
reactant | DMF | 178 μL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 3.98 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 115 mL | C1CCOC1 | C4H8O
product | (4R)-4-benzyl-3-[(2E)-3-(3,4-dichlorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one | 4.22 g, 49% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O | C19H15Cl2NO3
